US08236826B2
Production of ethyl 4-{5-[1-(4-trifluoromethylphenyl)-ethylideneamino]pyridin-2-yloxy}benzoate
Ethyl 4-(5-aminopyridin-2-yloxy)benzoate (16.0 g, 62 mmol) was dissolved in toluene (300 mL). To the resulting solution were added 4-trifluoromethylacetophenone (11.7 g, 62 mmol) and (±)-camphor-10-sulfonic acid (1.08 g, 4.65 mmol), and refluxed overnight. The reaction solution was concentrated under reduced pressure, to thereby yield 26.5 g of the title compound.

reactant | Ethyl 4-(5-aminopyridin-2-yloxy)benzoate | 62 mmol, 16.0 g | NC=1C=CC(=NC1)OC1=CC=C(C(=O)OCC)C=C1 | C14H14N2O3
reactant | 4-trifluoromethylacetophenone | 62 mmol, 11.7 g | CC(=O)C1=CC=C(C=C1)C(F)(F)F | C9H7F3O
reactant | (±)-camphor-10-sulfonic acid | 4.65 mmol, 1.08 g | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 4-{5-[1-(4-trifluoromethylphenyl)-ethylideneamino]pyridin-2-yloxy}benzoate | FC(C1=CC=C(C=C1)C(C)=NC=1C=CC(=NC1)OC1=CC=C(C(=O)OCC)C=C1)(F)F | C23H19F3N2O3
